US04123451
Preparation of α-cyano-3-phenoxybenzyl 2-(4-chlorophenyl)-3-methylbutanoate on an enlarged scale
A 500 ml round-bottomed flask equipped with a paddle stirrer was charged with 100 mmol of 3-phenoxybenzaldehyde, 100 mmol of 2-(4-chlorophenyl)-3-methylbutanoyl chloride, 120 mmol of sodium cyanide, 10 ml of water, and 200 ml of n-heptane. The molar ratio of water to sodium cyanide was 4.64, all NaCN being dissolved. The mixture thus formed was stirred and analysed. Table VI presents the yields and purities of the desired ester after the reaction time indicated.

reactant | 3-phenoxybenzaldehyde | 100 mmol | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | 2-(4-chlorophenyl)-3-methylbutanoyl chloride | 100 mmol | ClC1=CC=C(C=C1)C(C(=O)Cl)C(C)C | C11H12Cl2O
reactant | sodium cyanide | 120 mmol | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | n-heptane | 200 ml | CCCCCCC | C7H16
solvent | water | 10 ml | O | H2O
product | α-cyano-3-phenoxybenzyl 2-(4-chlorophenyl)-3-methylbutanoate | ClC1=CC=C(C=C1)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C(C)C | C25H22ClNO3
